US05476933
Preparation of 6,8-Dimethyl-3-hydroxy-7-nitro-1H-1-benzazepine-2,5-dione (99).
To a stirred suspension of 6,8-dimethyl-3-methoxy-7-nitro-1H-1-benzazepine-2,5-dione (460 mg, 1.66 mmol) in dry CH2Cl2 (50 mL, distilled from CaH2) under N2, there was added a solution of BBr3 in CHICl2 (6 mL, 1M, Aldrich) in one portion over 2 min at rt. The reaction suspension immediately became orange. The reaction was allowed to stir under N2 at rt for 60 min. The reaction was added to saturated NaHCO3 (60 mL) and the resulting mixture was vigorously stirred for 15 min. An orange aqueous portion and an organic emulsion were present. The mixture was vacuum filtered and the collected solid washed with CH2Cl2 (3×5 mL). The aqueous portion was washed with CH2Cl2 (1×10 mL). Analysis TLC, 20% dioxane, 57% 2-propanol, 11.5% H20, 11.5 % NH4OH) showed the solid and aqueous portions to be identical. Therefore, they were combined and the resulting suspension acidified (pH 2) with coned HCl. The resulting suspension was allowed to stir for 10 min at rt and the solid collected by filtration. The collected solid was washed to neutrality with H2O (6×2 mL). Crystallization from 95% EtOH (dissolved in boiling solvent (15 mL), hot filtered, concd to 7 mL, allowed to cool to rt) yielded a beige crystalline solid (186 mg, 43%, pure by 1H NMR and TLC); mp 229.5-230.5 (dec); 1H NMR (DMSO-d6) δ2.17 (s, 3H), 2.23 (s, 3H), 6.34 (s, 1H), 7.23 (s, 1H), 10.72 (s, 1H), 11.40 (s, 1H); IR (KBr) 3208 (m), 3091 (w), 3061 (w), 3003 (w), 1672 (m), 1646 (s), 1616 (s), 1572 (m), 1532 (m), 1443 (w), 1398 (m), 1364 (m), 1350 (m), 1320 (m), 1271 (m), 1219 (m), 883 (m), 862 (w), 815 (w), 785 (w), 727 (w), 682 (w), 636 (w), 601 (w), 565 (w), 520 (w), 458 (m); Anal. Calcd for C12H10NO5 : C, 54.97; H, 3.84; N, 10.68. Found: C, 54.89; H, 3.70; N, 10.65.

reactant | 6,8-dimethyl-3-methoxy-7-nitro-1H-1-benzazepine-2,5-dione | 1.66 mmol, 460 mg | CC1=C(C(=CC2=C1C(C=C(C(N2)=O)OC)=O)C)[N+](=O)[O-] | C13H12N2O5
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | 60 mL | C(=O)(O)[O-].[Na+]
reactant | KBr | [K+].[Br-]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 6,8-Dimethyl-3-hydroxy-7-nitro-1H-1-benzazepine-2,5-dione | CC1=C(C(=CC2=C1C(C=C(C(N2)=O)O)=O)C)[N+](=O)[O-] | C12H10N2O5
